US07329662B2
5-[4-(2,2,2-Trifluoroethoxy)-3-trifluoromethyl-phenyl]-3-(2-methyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-[4-(2,2,2-trifluoroethoxy)-3-trifluoromethyl-phenyl]-4,4,4-trifluoro-butane-1,3-dione (191 mg, 0.5 mmol), prepared from 4-(2,2,2-trifluoroethoxy)-3-trifluoromethyl-acetophenone (synthesis: see part acetophenone derivatives) according to general procedure A, and 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole [see part synthesis of amino-pyrazole derivatives] (87 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (176 mg, 68%). MS (ISP) 521.5 [(M+H)+]; mp 210° C.

reactant | 1-[4-(2,2,2-trifluoroethoxy)-3-trifluoromethyl-phenyl]-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 191 mg | FC(COC1=C(C=C(C=C1)C(CC(C(F)(F)F)=O)=O)C(F)(F)F)(F)F | C13H7F9O3
reactant | 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole | 0.5 mmol, 87 mg | NC1=NNC=C1C1=CC(=NC=C1)C | C9H10N4
product | 5-[4-(2,2,2-Trifluoroethoxy)-3-trifluoromethyl-phenyl]-3-(2-methyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 176 mg, 68% | FC(COC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC(=NC=C2)C)C(F)(F)F)(F)F | C22H13F9N4O
